US05041679
9.86 Grams of methyl acetoacetate were dissolved in 15 ml of water, and 12.67 g of a 30% aqueous sodium hydroxide solution was added thereto by drops while cooling the mixture to 20° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.0 by adding a concentrated aqueous hydrochloric acid solution thereto. Thereafter, 1.47 g of sodium acetate and then a concentrated aqueous hydrochloric acid solution was added to the mixture so that the mixture had a pH of 6.8. And 50 ml of methanol and then 8.72 g of 3-(4-chlorophenylthio)propanal were added thereto. After having been stirred at 45°-50° C. for 8 hours, the mixture was filtered. The filtrate was concentrated under reduced pressure, and the residue obtained was extracted with ethyl acetate. The organic layer was washed with a 5% aqueous acetic acid solution and then with a saturated aqueous sodium chloride solution. Then the layer was dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 13.26 g of crude 6-(4-chlorophenylthio)-4-hydroxy-2-hexanone (purity: 92.3%, yield 91.4%). A purified product was obtained by recrystallization from diisopropyl ether-hexane. The purified product had a melting point of 46.0°-47.° C.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | 1.47 g | C(C)(=O)[O-].[Na+]
reactant | 3-(4-chlorophenylthio)propanal | 8.72 g | ClC1=CC=C(C=C1)SCCC=O | C9H9ClOS
solvent | water | 15 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 6-(4-chlorophenylthio)-4-hydroxy-2-hexanone | 13.26 g, yield 91.4% | ClC1=CC=C(C=C1)SCCC(CC(C)=O)O | C12H15ClO2S
